US07687627B2
(S)-N-{3-[4-(8-aza-1-thia-4-oxa-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The mixture of (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (2.86 mmol), mercaptoethanol (3.15 mmol) and BF3 etherate (5.14 mmol) in 10 ml tetrahydrofuran was heated under reflux for 6 hours. The solvent was evaporated and the residue was extracted with ethyl acetate water mixture the organic layer was concentrated and the crude residue was purified on a silica gel column to afford the titled compound in 85% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 2.86 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
reactant | mercaptoethanol | 3.15 mmol | SC(C)O | C2H6OS
reactant | BF3 | 5.14 mmol | B(F)(F)F | BF3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(8-aza-1-thia-4-oxa-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 85% yield | S1CCOC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O4S
